US04555517
Methyl methoxymethyleneacetoacetate (2)
From methyl acetoacetate (30.2 g, 0.26 mol), trimethyl orthoformate (26.7 g, 0.18 mol) and acetic anhydride (53 g., 0.52 mol): 4.3 g, 15%; bp=100°-105° C. at 0.5 mm Hg (lit.1 80°-84° C. at 0.15 mm Hg); NMR (CDCl3) δ 2.4 (d, 3H), 3.8 (d, 3H), 4.1 (s, 3H), 7.6 (d, 1H).

reactant | methyl acetoacetate | 0.26 mol, 30.2 g | C(CC(=O)C)(=O)OC | C5H8O3
reactant | trimethyl orthoformate | 0.18 mol, 26.7 g | C(OC)(OC)OC | C4H10O3
reactant | acetic anhydride | 0.52 mol, 53 g | C(C)(=O)OC(C)=O | C4H6O3
product | Methyl methoxymethyleneacetoacetate | COC=CC(CC(=O)OC)=O | C7H10O4
